US09388189B2
(S)-2-(1-((5-Iodopyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one
(S)-2-(1-Aminoethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (400 mg, 1.49 mmol) was treated 4-chloro-5-iodopyrimidine (538 mg, 2.24 mmol), cesium fluoride (453 mg, 2.98 mmol) and N,N-diisopropylethylamine (1.3 mL, 7.46 mol) according to Preparation 13. The residue was purified by reverse phase using SP1® Purification System to give 230 mg (33% yield) of the title compound as a solid. Purity 100%.

reactant | (S)-2-(1-Aminoethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 1.49 mmol, 400 mg | N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C | C15H16N4O
reactant | 4-chloro-5-iodopyrimidine | 2.24 mmol, 538 mg | ClC1=NC=NC=C1I | C4H2ClIN2
reactant | cesium fluoride | 2.98 mmol, 453 mg | [F-].[Cs+]
reactant | N,N-diisopropylethylamine | 7.46 mol, 1.3 mL | C(C)(C)N(C(C)C)CC | C8H19N
product | (S)-2-(1-((5-Iodopyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 230 mg, 33% yield | IC=1C(=NC=NC1)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C | C19H17IN6O
